US08703805B2
Another method used for preparing examples of the invention is shown as Example 60. 4,4,4-Trifluoro-1-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-butane-1,3-dione was condensed directly with hydrazine to form pyrazole 3-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-5-trifluoromethyl-1H-pyrazole. Alkylation of a pyrazole such as 3-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-5-trifluoromethyl-1H-pyrazole could result in a mixture of positional isomers which could be separated by one skilled in the art

reactant | 4,4,4-Trifluoro-1-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-butane-1,3-dione | FC(C(CC(=O)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)=O)(F)F | C15H11F3O4S2
reactant | hydrazine | NN | H4N2
product | pyrazole 3-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-5-trifluoromethyl-1H-pyrazole | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(S1)C1=NNC(=C1)C(F)(F)F.N1N=CC=C1 | InChI=1S/C15H11F3N2O2S2.C3H4N2/c1-24(21,22)10-4-2-3-9(7-10)12-5-6-13(23-12)11-8-14(20-19-11)15(16,17)18;1-2-4-5-3-1/h2-8H,1H3,(H,19,20);1-3H,(H,4,5)
